US06660753B2
A stirred suspension of dimethyl 5-hydroxyisophthlate (5.0 g, 23.8 mmol) and potassium carbonate (7.5 g, 54.5 mmol) in acetone (120 mL) was treated with allyl bromide (4.6 mL, 53.0 mmol). The mixture was stirred at room temperature for 3 days. The mixture was then filtered and concentrated. The residue was dissolved in ethyl acetate and washed with water and brine. The remaining organic solution was dried over anhydrous sodium sulfate, filtered, and concentrated. Trituration with hexane afforded 5.0 g (84%) of dimethyl 5-allyloxy-isophthalate

reactant | dimethyl 5-hydroxyisophthlate | 23.8 mmol, 5.0 g | OC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C10H10O5
reactant | potassium carbonate | 54.5 mmol, 7.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 53.0 mmol, 4.6 mL | C(C=C)Br | C3H5Br
solvent | acetone | 120 mL | CC(=O)C | C3H6O
product | dimethyl 5-allyloxy-isophthalate | 5.0 g, 84% | C(C=C)OC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C13H14O5
